US05658491
Preparation of 5-Hexyloxy-2-[4-(5-(2-(2-(pentafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)pentyloxy)phenyl]pyrimidine
The title compound was prepared essentially as in Example 1 by combining 5-hexyloxy-2-(4-hydroxyphenyl)pyrimidine (2.26 g, 8.3 mmol) with 5-(2-(2-(pentafluoroethoxy) tetrafluoroethoxy)-2,2-difluoroethoxy)-1-bromopentane (4.08 g, 8.3 mmol; prepared by combining 1,5-dibromopentane with 2-(2-(pentafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethanol). Product was isolated by addition of water (160 mL) to the resulting mixture, followed by filtration and recrystallization from ethanol. The recrystallized precipitate was dried at about 130° C., and the resulting product was further purified by Kugelrohr distillation (b.p. 190°-205° C. at 0.3 torr; yield of 15.2 g).

reactant | 5-hexyloxy-2-(4-hydroxyphenyl)pyrimidine | 8.3 mmol, 2.26 g | C(CCCCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)O | C16H20N2O2
reactant | 5-(2-(2-(pentafluoroethoxy) tetrafluoroethoxy)-2,2-difluoroethoxy)-1-bromopentane | 8.3 mmol, 4.08 g | FC(C(F)(F)F)(OC(C(OC(COCCCCCBr)(F)F)(F)F)(F)F)F | C11H12BrF11O3
solvent | water | 160 mL | O | H2O
product | 5-Hexyloxy-2-[4-(5-(2-(2-(pentafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)pentyloxy)phenyl]pyrimidine | C(CCCCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCCOCC(F)(F)OC(C(OC(C(F)(F)F)(F)F)(F)F)(F)F | C27H31F11N2O5
